US09102591B2
2-Isopropoxy-2-(2-methylpyrimidin-5-yl)acetonitrile
A solution of 5-diisopropoxymethyl-2-methyl-pyrimidine (335 mg, 1.49 mmol) in DCM (5 mL, 80 mmol) was cooled at 0° C. Zinc diiodide (47.7 mg, 0.149 mmol) TMSCN (219 uL, 1.64 mmol) were added and cooling removed. After stirring for 24 hours TLC indicated that starting materiale was present. TMSCN (60 uL, 0.45 mmol) and zinc diiodide (48 mg, 0.15 mmol) were added and the reaction was stirred for a further 3.5 hours. The reaction was poured into water (20 mL) and extracted with DCM (3×20 mL). The combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography 2-Isopropoxy-2-(2-methylpyrimidin-5-yl)acetonitrile (217 mg, 76%).

reactant | 5-diisopropoxymethyl-2-methyl-pyrimidine | 1.49 mmol, 335 mg | C(C)(C)OC(C=1C=NC(=NC1)C)OC(C)C | C12H20N2O2
reactant | DCM | 80 mmol, 5 mL | C(Cl)Cl | CH2Cl2
reactant | TMSCN | 0.45 mmol, 60 uL | [Si](C)(C)(C)C#N | C4H9NSi
catalyst | Zinc diiodide | 0.149 mmol, 219 uL, 47.7 mg | [I-].[I-].[Zn+2]
catalyst | zinc diiodide | 0.15 mmol, 48 mg | [I-].[I-].[Zn+2]
solvent | water | 20 mL | O | H2O
product | 2-Isopropoxy-2-(2-methylpyrimidin-5-yl)acetonitrile | C(C)(C)OC(C#N)C=1C=NC(=NC1)C | C10H13N3O
